US07642263B2
3-Hydroxy-N-(5-methylpyrazin-2-yl)-5-(tetrahydro-2H-pyran-4-yloxy)benzamide
N-(5-Methylpyrazin-2-yl)-3-[(phenylmethyl)oxy]-5-(tetrahydro-2H-pyran-4-yloxy)benzamide (1.70 g, 4.05 mmol) was dissolved in ethanol (40 mL) and 10% palladium on charcoal (86 mg) catalyst added under argon. The reaction was stirred under an atmosphere of hydrogen for 4 days then filtered and the filtrate concentrated in vacuo to give the desired compound as a cream-coloured solid (1.20 g). m/z 330 (M+H)+

reactant | N-(5-Methylpyrazin-2-yl)-3-[(phenylmethyl)oxy]-5-(tetrahydro-2H-pyran-4-yloxy)benzamide | 4.05 mmol, 1.70 g | CC=1N=CC(=NC1)NC(C1=CC(=CC(=C1)OC1CCOCC1)OCC1=CC=CC=C1)=O | C24H25N3O4
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 86 mg | [Pd] | Pd
product | 3-Hydroxy-N-(5-methylpyrazin-2-yl)-5-(tetrahydro-2H-pyran-4-yloxy)benzamide | 1.20 g | OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OC1CCOCC1 | C17H19N3O4
